US06743776B2
To a solution of 1-tert-butoxycarbonyl-4-(4-hexyloxyphenyl)-4-hydroxypiperidine (6.856 g) in dichloromethane (34 ml) was added trifluoroacetic acid (17 ml) and stirred for 30 minutes at 4° C. The reaction mixture was adjusted to pH 12 with 2M aqueous NaOH. The organic layer was separated, washed with water and dried over magnesium sulfate and evaporated under reduced pressure to give 4-(4-hexyloxyphenyl)-1,2,3,6-tetrahydropiridine (3.59 g)

reactant | 1-tert-butoxycarbonyl-4-(4-hexyloxyphenyl)-4-hydroxypiperidine | 6.856 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)OCCCCCC | C22H35NO4
reactant | trifluoroacetic acid | 17 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 2M | [OH-].[Na+]
solvent | dichloromethane | 34 ml | ClCCl | CH2Cl2
product | 4-(4-hexyloxyphenyl)-1,2,3,6-tetrahydropiridine | 3.59 g | C(CCCCC)OC1=CC=C(C=C1)C=1CCNCC1 | C17H25NO
